US05840732
ii) Synthesis of 5-butylidene-3-[4-(imidazo[1,2-c]pyrimidin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 1.052 g (2.79 mmol) of 5-butylidene-3-[4-(imidazo[1,2-c]pyrimidin-5-ylthio)butyl]thiazolidine-2,4-dione, 3 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring, after which the solvent was distilled off, to yield 0.914 g (79.3%, white powder) of the desired product.

reactant | 5-butylidene-3-[4-(imidazo[1,2-c]pyrimidin-5-ylthio)butyl]thiazolidine-2,4-dione | 2.79 mmol, 1.052 g | C(CCC)=C1C(N(C(S1)=O)CCCCSC1=NC=CC=2N1C=CN2)=O | C17H20N4O2S2
reactant | hydrochloric acid ethyl acetate | 4N, 3 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-butylidene-3-[4-(imidazo[1,2-c]pyrimidin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCSC1=NC=CC=2N1C=CN2)=O | InChI=1S/C17H20N4O2S2.ClH/c1-2-3-6-13-15(22)21(17(23)25-13)10-4-5-12-24-16-19-8-7-14-18-9-11-20(14)16;/h6-9,11H,2-5,10,12H2,1H3;1H
